US08008340B2
[3-(2-Amino-phenylsulfanyl)-1H-indol-2-yl]-pyrrolidin-1-yl-methanone (Iz)
Treat 1H-indole-2-carboxylic acid 3 (X═H, 2.0 g, 12.4 mmol) with pyrrolidine (3.0 equiv., 3.1 mL, 37.2 mmol) as described in General Synthetic Procedure VIa to afford 1H-indol-2yl-pyrrolidin-1-yl-methanone 8 (X═H, R4=pyrrolidin-1-yl; 2.46 g, 93%) as a white solid, mp 213-214° C. 1H NMR (DMSO-d6) δ 11.5 (brs, 1H), 7.6 (d, 1H, J=8.1 Hz), 7.4 (d, 1H, J=8.1 Hz), 7.2 (m, 1H), 7.1 (m, 1H), 6.9 (m, 1H), 3.8 (m, 2H), 3.5 (m, 2H), 1.9-1.8 (m, 4H). Treat 1H-indol-2-yl-pyrrolidin-1-yl-methanone (428 mg, 2.0 mmol) with 2-amino-phenyldisulphide (1.4 equiv., 694 mg, 2.8 mmol) as described in General Synthetic Procedure VIIa to afford the title compound Iz (468 mg, 69%) as a white solid. 1H NMR (DMSO-d6) δ 11.9 (brs, 1H), 7.5 (d, 1H), 7.4 (d, 1H), 7.2 (m, 2H), 7.1 (m, 1H), 7.0 (m, 1H), 6.9 (d, 1H), 6.7 (m, 1H), 5.5 (brs, 2H), 3.5 (m, 2H), 1.9-1.7 (m, 4H); m/z=338 (M+1).

reactant | 1H-indol-2-yl-pyrrolidin-1-yl-methanone | 2.0 mmol, 428 mg | N1C(=CC2=CC=CC=C12)C(=O)N1CCCC1 | C13H14N2O
reactant | 2-amino-phenyldisulphide | 2.8 mmol, 694 mg, 1.4 equiv. | NC1=C(C=CC=C1)SSC1=C(C=CC=C1)N | C12H12N2S2
product | [3-(2-Amino-phenylsulfanyl)-1H-indol-2-yl]-pyrrolidin-1-yl-methanone | NC1=C(C=CC=C1)SC1=C(NC2=CC=CC=C12)C(=O)N1CCCC1 | C19H19N3OS
